US05082856
Methyl 4-tridecanoylpyrrole-2-carboxylate dithioethylene ketal (15.06 g, 37.9 mmol) prepared in Synthetic Example 8 was added to a mixed solution of 750 ml of ethanol and 150 ml of Raney-nickel (activated type, manufactured by Aldrich Co.) which was washed with water and ethanol successively. The mixture was heated under reflux for 30 minutes. After cooling it to ca. 30° C., the Raney-nickel was filtered off and the filtrate was concentrated under reduced pressure. Recrystallization of the residue from ethanol gave 10.70 g (91.8% yield) of methyl 4-tridecylpyrrole-2-carboxylate as white crystals, m.p. 80°-82° C.

reactant | Methyl 4-tridecanoylpyrrole-2-carboxylate dithioethylene ketal | 37.9 mmol, 15.06 g | C1COC(OC)(C=2NC=C(C2)C(CCCCCCCCCCCC)=O)OSS1 | C21H35NO4S2
catalyst | Raney-nickel | 150 ml | [Ni] | Ni
solvent | ethanol | 750 ml | C(C)O | C2H6O
product | methyl 4-tridecylpyrrole-2-carboxylate | 10.70 g, 91.8% yield | C(CCCCCCCCCCCC)C=1C=C(NC1)C(=O)OC | C19H33NO2
